US06630578B2
3,5-Bis(dimethylcarbamoylthio)aniline was subjected to hydrolysis with aqueous sodium hydroxide according to the ordinary procedure, giving 3,5-dimercaptoaniline.

reactant | 3,5-Bis(dimethylcarbamoylthio)aniline | CN(C(=O)SC=1C=C(N)C=C(C1)SC(N(C)C)=O)C | C12H17N3O2S2
reactant | sodium hydroxide | [OH-].[Na+]
product | 3,5-dimercaptoaniline | SC=1C=C(N)C=C(C1)S | C6H7NS2
